US05217866
6.13 preparation of inosine pyrrolidone
6-Chloropurine pyrrolidone (1 mmol) was converted to the inosine derivative by the method used for the preparation of the guanine pyrrolidone derivative. The compound is purified by chromatography on silica using a gradient of methanol (5-25%) in chloroform.

reactant | 6-Chloropurine pyrrolidone | 1 mmol | N1C(CCC1)=O.ClC1=C2NC=NC2=NC=N1
reactant | inosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | guanine pyrrolidone | N1C(CCC1)=O.N1C(N)=NC=2N=CNC2C1=O
product | inosine pyrrolidone | N1C(CCC1)=O.[C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | InChI=1S/C10H12N4O5.C4H7NO/c15-1-4-6(16)7(17)10(19-4)14-3-13-5-8(14)11-2-12-9(5)18;6-4-2-1-3-5-4/h2-4,6-7,10,15-17H,1H2,(H,11,12,18);1-3H2,(H,5,6)/t4-,6-,7-,10-;/m1./s1
